US06335459B1
A solution of trimethyl phosphonoacetate (9.94 mL, 61.4 mmol), lithium chloride (2.60 g, 12.2 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (15.92 mL, 106.5 mmol) in acetonitrile (80 mL) at room temperature under a nitrogen atmosphere was stirred at room temperature for 30 minutes. 3-Hydroxybenzaldehyde (5.00 g, 40.9 mmol) was added, and the mixture was stirred at room temperature for an additional 3 hours. Water was added and the aqueous phase was extracted with diethyl ether. The combined organic fractions were washed with water, brine, dried over magnesium sulfate, and evaporated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave trans-3-(3-hydroxyphenyl)acrylic acid methyl ester as a white crystalline solid (6.30 g, 86%).

reactant | trimethyl phosphonoacetate | 61.4 mmol, 9.94 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | lithium chloride | 12.2 mmol, 2.60 g | [Cl-].[Li+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 106.5 mmol, 15.92 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-Hydroxybenzaldehyde | 40.9 mmol, 5.00 g | OC=1C=C(C=O)C=CC1 | C7H6O2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | trans-3-(3-hydroxyphenyl)acrylic acid methyl ester | 6.30 g, 86% | COC(\C=C\C1=CC(=CC=C1)O)=O | C10H10O3
